US05393790
To a vigorously stirred mixture of 50.4 g (771 mmol) of zinc dust in 640 mL of THF at -78° C. under an atmosphere of nitrogen was added dropwise 60.4 mL (551 mmol) of titanium(IV) chloride. The reaction was warmed to ambient temperature with a water bath and then stirred at reflux for 1 hour. To the resulting dark mixture under reflux was added a solution of 15 g (32.3 mmol) of dimethyl2-[2-(4-fluorophenyl)-2-oxoethyl]-2-[2-[4-(methylsulfonyl)phenyl]-2-oxoethyl ]propanedioate (prepared above) in 20 mL of THF. The resulting mixture was stirred at ambient temperature for 16 hours, filtered through a pad of celite, rinsed with ethyl acetate, and concentrated in vacuo. The residue was partitioned between water and ethyl acetate; the organic phase was washed with brine, dried (MgSO4), and concentrated in vacuo. The residue was chromatographed on silica gel to give 6.26 g (44%) of 1-[2 -(4-fluorophenyl)-4,4-dicarbomethoxycyclopenten-1-yl]-4-(methylsulfonyl)benzene which was identical to the material prepared in Step 8, Method A.

reactant | dimethyl2-[2-(4-fluorophenyl)-2-oxoethyl]-2-[2-[4-(methylsulfonyl)phenyl]-2-oxoethyl ]propanedioate | 32.3 mmol, 15 g | COC(C(C(=O)OC)(CC(=O)C1=CC=C(C=C1)S(=O)(=O)C)CC(=O)C1=CC=C(C=C1)F)=O | C22H21FO8S
solvent | THF | 640 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc | 771 mmol, 50.4 g | [Zn] | Zn
catalyst | titanium(IV) chloride | 551 mmol, 60.4 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 1-[2 -(4-fluorophenyl)-4,4-dicarbomethoxycyclopenten-1-yl]-4-(methylsulfonyl)benzene | 6.26 g, 44% | FC1=CC=C(C=C1)C1=C(CC(C1)(C(=O)OC)C(=O)OC)C1=CC=C(C=C1)S(=O)(=O)C | C22H21FO6S
